* source BMS_V2
V_V1         N22536 N14639 4Vdc
V_V2         N14639 N27496 4Vdc
V_V3         N27496 0 4Vdc
V_V7         HIGH 0 5Vdc
R_R9         N267101 N22536  470 TC=0,0 
R_R10         N26778 N14639  470 TC=0,0 
R_R11         N267421 N27496  470 TC=0,0 
R_R12         N48782 N22536  10k TC=0,0 
R_R13         N51480 N14639  10k TC=0,0 
R_R14         N51698 N27496  10k TC=0,0 
R_R15         N55702 N22536  1Meg TC=0,0 
R_R16         N58521 N14639  1Meg TC=0,0 
R_R17         N56952 N27496  1Meg TC=0,0 
R_R22         A2 N58521  1Meg TC=0,0 
X_U4         N55702 N58521 HIGH 0 A2 uA741
R_R23         0 N55702  1Meg TC=0,0 
R_R24         A1 N56952  1Meg TC=0,0 
X_U5         N64239 N56952 HIGH 0 A1 uA741
R_R25         N64239 N14639  1Meg TC=0,0 
R_R27         0 N27496  1Meg TC=0,0 
D_D1         N26778 N68976 D1N4376 
D_D2         N267101 N687111 D1N4376 
D_D3         N267421 N687271 D1N4376 
Q_Q1         N687111 N48782 N14639 Q2N2222
Q_Q2         N68976 N51480 N27496 Q2N2222
Q_Q3         N687271 N51698 0 Q2N2222
Q_Q4         N48782 0 0 Q2N2222
Q_Q5         N51480 HIGH 0 Q2N2222
Q_Q6         N51698 HIGH 0 Q2N2222
R_R32         N48782 HIGH  1Meg TC=0,0 
R_R33         N48782 HIGH  1Meg TC=0,0 
R_R34         N48782 0  50k TC=0,0 
R_R35         0 N64239  1Meg TC=0,0 
